US07354917B2
N-{2-[7-(2-Cyano-benzyl)-9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl]-ethyl}-N-[2-(4-cyano-phenoxy)-ethyl]-methanesulfonamide
To N-[2-(4-cyano-phenoxy)-ethyl]-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]-non-3-yl)-ethyl]-methanesulfonamide (0.079 g, 0.20 mmol), 2-bromo-methyl-benzonitrile (0.041 g, 0.21 mmol) and anhydrous potassium carbonate (0.042 g, 0.30 mmol) was added dry acetonitrile (4 mL). The mixture was heated by microwave irradiation (15 minutes, 160° C.) and was then filtered. The filtrate was loaded onto a cation exchange column (SCX-2, Isolute™, 2 g). The column was washed with dichloromethane, acetonitrile and dichloromethane/methanol 80:20 before eluting the crude product with 20% methanol saturated with ammonia in dichloromethane. The filtrate was concentrated in vacuo and the crude product was purified by chromatography on silica gel using methanol saturated with ammonia in dichloromethane as eluent, which afforded 57 mg (55.9%) of the title compound.

reactant | N-[2-(4-cyano-phenoxy)-ethyl]-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]-non-3-yl)-ethyl]-methanesulfonamide | 0.20 mmol, 0.079 g | C(#N)C1=CC=C(OCCN(S(=O)(=O)C)CCN2CC3CNCC(C2)O3)C=C1 | C18H26N4O4S
reactant | 2-bromo-methyl-benzonitrile | 0.21 mmol, 0.041 g | BrC1=C(C#N)C=CC=C1C | C8H6BrN
reactant | potassium carbonate | 0.30 mmol, 0.042 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | N-{2-[7-(2-Cyano-benzyl)-9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl]-ethyl}-N-[2-(4-cyano-phenoxy)-ethyl]-methanesulfonamide | 57 mg, 55.9% | C(#N)C1=C(CN2CC3CN(CC(C2)O3)CCN(S(=O)(=O)C)CCOC3=CC=C(C=C3)C#N)C=CC=C1 | C26H31N5O4S
